US07666871B2
2-(2′-Fluoro-biphenyl-4-yl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole
The title compound is prepared in a manner substantially analogous to example 133 starting from 2-fluorobenzene boronic acid (201 mg, 1.43 mmol) and 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole (100 mg, 0.287 mmol) to give 61 mg (59%). MS (m/e) 365.2 (M+1)

reactant | 2-fluorobenzene boronic acid | 1.43 mmol, 201 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | 0.287 mmol, 100 mg | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C17H21BrN2O
product | 2-(2′-Fluoro-biphenyl-4-yl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | FC1=C(C=CC=C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C23H25FN2O
